### PR TITLE
Bump v4.15.0

### LINKED ISSUE #277: Bump to Lean v4.15.0
HepLean needs bumping to Lean v4.15.0 and dependencies tagged therewith. 

I have yet to find time to do this.

### PR DESCRIPTION
**Pull request by kuotsanhsu**
1. @jstoobysmith could you help me? Also, I wonder if `ModuleCat` will cause any problem for #274?
2. This PR should be squash-merged.

For Mathlib v4.15.0, leanprover-community/mathlib4#19511 made the [constructor of `ModuleCat` private](https://github.com/leanprover-community/mathlib4/blob/bdee03dd2e32e0a077a89013612f859d87ea21b1/Mathlib/Algebra/Category/ModuleCat/Basic.lean#L54). Thus, `A ⟶ B` and `A →ₗ[R] B` are no longer definitionally equal; instead, [`ModuleCat.ofHom`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/ModuleCat/Basic.html#ModuleCat.ofHom) and [`ModuleCat.hom_ext`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/ModuleCat/Basic.html#ModuleCat.hom_ext) must be used explicitly. I tried my best, but I need help with the following:
-  Several places in `HepLean/Tensors/Tree/NodeIdentities/ProdContr.lean` starting with `TensorTree.ContrPair.contrMap_prod_tprod_aux`
- Lemma `TensorSpecies.contr_one_two_left_eq_contrOneTwoLeft_tprod` in `HepLean/Tensors/TensorSpecies/Contractions/Categorical.lean`

After they pass type-checking, more errors might be discovered by `lake build`. To try out this PR do:
```sh
# Optionally, check out this branch in a separate git-worktree
# Optionally, `rm -fr .lake`
lake update # Update `lake-manifest.json`; slow due to `doc-gen`
lake exec cache get # Update Mathlib cache
lake build # Fix errors and warnings
```

I have been upstreaming Schur decomposition to Mathlib (leanprover-community/mathlib4#20730), so I looked into the workflows and linters in Mathlib4. As I read through our `Meta` implementation, I'll try to align the project setup of HepLean with that of Mathlib. Also, I would like to separate doc-gen4 out of the top level lakefile, so that `lake update` won't pull/build doc-gen4 and its dependencies.
1. Mathlib uses [a separate repo and cronjob](https://github.com/leanprover-community/mathlib4_docs/blob/aa305acbd69718c470252b6accfc292db509c398/.github/workflows/docs.yaml#L6) for document generation.
3. We don't need a separate repo and cronjob, we can just use a top-level directory named `doclean` as [suggested by doc-gen4](https://github.com/leanprover/doc-gen4?tab=readme-ov-file#usage) and a [workflow that is triggered when a PR merges](https://docs.github.com/en/actions/writing-workflows/choosing-when-your-workflow-runs/events-that-trigger-workflows#running-your-pull_request-workflow-when-a-pull-request-merges).

### CODE REVIEW

**Comment by jstoobysmith** [comment]
> 1. @jstoobysmith could you help me? Also, I wonder if `ModuleCat` will cause any problem for [feat: Time dependent Wick theorem. #274](https://github.com/HEPLean/HepLean/pull/274)?

 [feat: Time dependent Wick theorem. #274](https://github.com/HEPLean/HepLean/pull/274) doesn't use `ModuleCat`, so should be ok. But I will update anything there as needed.
 
> 2. This PR should be squash-merged.
> 
> For Mathlib v4.15.0, [leanprover-community/mathlib4#19511](https://github.com/leanprover-community/mathlib4/pull/19511) made the [constructor of `ModuleCat` private](https://github.com/leanprover-community/mathlib4/blob/bdee03dd2e32e0a077a89013612f859d87ea21b1/Mathlib/Algebra/Category/ModuleCat/Basic.lean#L54). Thus, `A ⟶ B` and `A →ₗ[R] B` are no longer definitionally equal; instead, [`ModuleCat.ofHom`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/ModuleCat/Basic.html#ModuleCat.ofHom) and [`ModuleCat.hom_ext`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/ModuleCat/Basic.html#ModuleCat.hom_ext) must be used explicitly. I tried my best, but I need help with the following:
> 
> * Several places in `HepLean/Tensors/Tree/NodeIdentities/ProdContr.lean` starting with `TensorTree.ContrPair.contrMap_prod_tprod_aux`
> * Lemma `TensorSpecies.contr_one_two_left_eq_contrOneTwoLeft_tprod` in `HepLean/Tensors/TensorSpecies/Contractions/Categorical.lean`

Yeah I will look at these. These files `HepLean/Tensors/...` are annoying slow to run (probably down to the meta-programming behind index notation) which I'm guessing doesn't help this situation. 
 
> After they pass type-checking, more errors might be discovered by `lake build`. To try out this PR do:
> 
> ```shell
> # Optionally, check out this branch in a separate git-worktree
> # Optionally, `rm -fr .lake`
> lake update # Update `lake-manifest.json`; slow due to `doc-gen`
> lake exec cache get # Update Mathlib cache
> lake build # Fix errors and warnings
> ```
> 
> I have been upstreaming Schur decomposition to Mathlib ([leanprover-community/mathlib4#20730](https://github.com/leanprover-community/mathlib4/pull/20730)), so I looked into the workflows and linters in Mathlib4. As I read through our `Meta` implementation, I'll try to align the project setup of HepLean with that of Mathlib. 

This would be good. As you probably saw with HepLean are not completely up to date with Mathlib etc. I know mathlib are in the process of writing all of their linters into Lean, removing them from python. I didn't think it was worth making any changes until all the mathlib linters were put into lean. But if you are happy to work on this, this would be great. 

> Also, I would like to separate doc-gen4 out of the top level lakefile, so that `lake update` won't pull/build doc-gen4 and its dependencies.
> 
> 1. Mathlib uses [a separate repo and cronjob](https://github.com/leanprover-community/mathlib4_docs/blob/aa305acbd69718c470252b6accfc292db509c398/.github/workflows/docs.yaml#L6) for document generation.
> 2. We don't need a separate repo and cronjob, we can just use a top-level directory named `doclean` as [suggested by doc-gen4](https://github.com/leanprover/doc-gen4?tab=readme-ov-file#usage) and a [workflow that is triggered when a PR merges](https://docs.github.com/en/actions/writing-workflows/choosing-when-your-workflow-runs/events-that-trigger-workflows#running-your-pull_request-workflow-when-a-pull-request-merges).

Yep, I have no objection to this, and it sounds good to me, especially if we can keep it all in one repo.

File: Archive/Papers/1907_00514.lean [hunk 1]
```diff
@@ -784,13 +784,13 @@ lemma cubic_v_zero (S : linearParametersQENeqZero) (h : accCube (bijection S).1.
...
     exact add_eq_zero_iff_neg_eq.mpr (id (Eq.symm h))
-  have h'' : (1 * S.w * S.w + (-1) * S.w + 1) ≠ 0 := by
+  have h'' : (1 * (S.w * S.w) + (-1) * S.w + 1) ≠ 0 := by
     refine quadratic_ne_zero_of_discrim_ne_sq ?_ S.w
     intro s
     by_contra hn
     have h : s ^ 2 < 0 := by
       rw [← hn]
-      rfl
+      decide +kernel
```
Comment (jstoobysmith) [inline Archive/Papers/1907_00514.lean:793]: I'm slightly worried about this change. I'm guessing the `+kernal` is adding the axiom `Lean.ofReduceBool` (that the kernal is correct) to the lemma in a similar way to `native_decide` does. This is something which should be easy to check.

Comment (jstoobysmith) [reply Archive/Papers/1907_00514.lean:793]: (OK never mind - +kernel doesn't seem to add axioms, so this is ok)

**Comment by jstoobysmith** [comment]
I got this to build, by replacing various instances of `discreteSumEquiv` with `discreteSumEquiv'`, which for essentially all purposes is equivalent, but just takes slightly different forms of arguments. 

Annoyingly though a couple of lemmas got pushed over the max heartbeat limit, so I think we should fix these before merging.

File: HepLean/Tensors/TensorSpecies/Contractions/Categorical.lean [hunk 2]
```diff
@@ -96,6 +96,7 @@ lemma contrOneTwoLeft_tprod_eq {c1 c2 : S.C}
       Functor.mapIso_refl, Iso.refl_hom, Action.id_hom, Iso.refl_inv, LinearEquiv.ofLinear_apply]
     rfl
 
+set_option maxHeartbeats 0 in
```
Comment (jstoobysmith) [inline HepLean/Tensors/TensorSpecies/Contractions/Categorical.lean]: Need to improve the proof of this result to reduce heartbeats - or split it into smaller lemmas.

File: HepLean/Tensors/TensorSpecies/Contractions/Categorical.lean [hunk 3]
```diff
@@ -275,6 +276,7 @@ lemma contr_two_two_inner_tprod (c : S.C) (x : S.F.obj (OverColor.mk ![c, c]))
     | (0 : Fin 2) => rfl
     | (1 : Fin 2) => rfl
 
+set_option maxHeartbeats 0 in
```
Comment (jstoobysmith) [inline HepLean/Tensors/TensorSpecies/Contractions/Categorical.lean]: Need to improve the proof of this result to reduce heartbeats - or split it into smaller lemmas.

File: HepLean/Tensors/TensorSpecies/DualRepIso.lean [hunk 4]
```diff
@@ -42,6 +42,7 @@ lemma toDualRep_congr {c c' : S.C} (h : c = c') : S.toDualRep c = S.FD.map (Disc
 def fromDualRep (c : S.C) : S.FD.obj (Discrete.mk (S.τ c)) ⟶ S.FD.obj (Discrete.mk c) :=
   S.toDualRep (S.τ c) ≫ S.FD.map (Discrete.eqToHom (S.τ_involution c))
 
+set_option maxHeartbeats 0 in
```
Comment (jstoobysmith) [inline HepLean/Tensors/TensorSpecies/DualRepIso.lean]: Need to improve the proof of this result to reduce heartbeats - or split it into smaller lemmas.

**Comment by jstoobysmith** [comment]
> Annoyingly though a couple of lemmas got pushed over the max heartbeat limit, so I think we should fix these before merging.

I have fixed these lemmas

File: HepLean/Lorentz/ComplexTensor/Basic.lean [hunk 5]
```diff
@@ -187,12 +187,12 @@ def complexLorentzTensor : TensorSpecies where
...
-    | Color.upR => by simpa using Fermion.rightAltContraction_apply_metric
-    | Color.downR => by simpa using Fermion.altRightContraction_apply_metric
-    | Color.up => by simpa using Lorentz.contrCoContraction_apply_metric
-    | Color.down => by simpa using Lorentz.coContrContraction_apply_metric
+    | Color.upL => by simp ; exact Fermion.leftAltContraction_apply_metric
+    | Color.downL => by simp ; exact Fermion.altLeftContraction_apply_metric
+    | Color.upR => by simp ; exact Fermion.rightAltContraction_apply_metric
+    | Color.downR => by simp ; exact Fermion.altRightContraction_apply_metric
+    | Color.up => by simp ; exact Lorentz.contrCoContraction_apply_metric
+    | Color.down => by simp ; exact Lorentz.coContrContraction_apply_metric
```
Comment (jstoobysmith) [inline HepLean/Lorentz/ComplexTensor/Basic.lean]: What is the motivation behind these changes?

Comment (jstoobysmith) [reply HepLean/Lorentz/ComplexTensor/Basic.lean]: Actually never mind. I see the issue - this is somewhat strange.

**Review by jstoobysmith — APPROVED** [review]

**Comment by jstoobysmith** [comment]
Ok, all of this now looks good to me. Many thanks for doing this! Sometimes bumping Heplean is easy, and other times it is a pain, this time it seems like it was a pain - so thanks again!

I've approved the changes, and they've past the linters so feel free to merge (if it will let you?). 

I was thinking maybe we should do tagged 'Releases' in the same way that mathlib has for different versions of Lean.
